US05585491
Ethyl 2-(2,4,5-trifluoro-6-methylbenzoyl)-3-ethoxyacrylate
A solution of 7.1 g (27 mmol) of ethyl (3-2 (2,4,5-trifluoro-6-methylbenzoyl)-β-oxopropanoate, 6.8 g (41 mmol) of triethyl orthoformate and 60 mL of acetic anhydride was refluxed for 3 hours, cooled to room temperature, and concentrated to give 8.4 g of the title compound. The crude material was used as is in the next step.

reactant | (2,4,5-trifluoro-6-methylbenzoyl)-β-oxopropanoate | FC1=C(C(=O)OC(CC=O)=O)C(=C(C(=C1)F)F)C | C11H7F3O4
reactant | triethyl orthoformate | 41 mmol, 6.8 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,4,5-trifluoro-6-methylbenzoyl)-3-ethoxyacrylate | 8.4 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1)F)F)C | C15H15F3O4
